US06184419B2
b) 2-(Pent-4-en-1-ynyl)decahydronaphth-2-ol
A solution of 2-ethynyldecahydronaphthalen-2-ol (100.6 g, 0.56 mol) in iPrOH (300 ml) was added slowly at 0° C. under a nitrogen atmosphere to a mixture of KOH (47.5 g), K2CO3 (6.5 g), and CuCl (4.4 g) in MeOH (300 ml). After stirring for additional 30 minutes at 0° C., allylbromide (102 g, 0.85 mol) was added slowly over a period of 25 minutes. The reaction mixture was stirred overnight at RT, quenched with NH4Cl and concentrated in vacuo. The residue was taken up in saturated NH4Cl (500 ml) solution, extracted with MTBE (2×400 ml). The combined organic phases were washed with saturated NH4Cl solution (500 ml), H2O (2×500 ml), saturated NaCl solution (500 ml) until neutral pH was achieved, dried (MgSO4), and evaporated in vacuo to yield quantitatively 120 g of crude product which was used without further purification in the next step.

reactant | 2-ethynyldecahydronaphthalen-2-ol | 0.56 mol, 100.6 g | C(#C)C1(CC2CCCCC2CC1)O | C12H18O
reactant | KOH | 47.5 g | [OH-].[K+]
reactant | allylbromide | 0.85 mol, 102 g | C(C=C)Br | C3H5Br
solvent | iPrOH | 300 ml | CC(C)O | C3H8O
solvent | MeOH | 300 ml | CO | CH4O
catalyst | CuCl | 4.4 g | Cl[Cu]
catalyst | K2CO3 | 6.5 g | C(=O)([O-])[O-].[K+].[K+]
product | 2-(Pent-4-en-1-ynyl)decahydronaphth-2-ol | 120 g | C(#CCC=C)C1(CC2CCCCC2CC1)O | C15H22O
